US06881746B2
4-({(4-Chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoic acid (47 g, 93 mmol) was dissolved in DMF (500 mL) and 1-hydoxybenzotriazole (18.9 g, 140 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (26.7 g, 140 mmol) were added and the mixture was stirred at room temperature for 1.5 hours. Di PEA (i 9.1 mL, 111 mmol) and 3-aminopropionic acid methyl ester hydrochloride (15.5 g, 111 mmol) were added to the mixture and the resulting mixture was stirred at room temperature for 16 hours. Ethyl acetate (500 mL) was added and the mixture was washed with water (500 mL). The aqueous phase was extracted with ethyl acetate (500 mL). The combined organic phases were washed with water (2×500 mL) and saturated aqueous ammonium chloride (2×300 mL), dried (Na2SO4) and concentrated in vacuo to afford 60 g (quant.) of crude 3-[4-({(4-chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester as a solid. Recrystallisation from ethanol afforded 31.2 g (55%) pure product.

reactant | 4-({(4-Chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoic acid | 93 mmol, 47 g | ClC1=CC=C(C=C1)N(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C(=O)O)C=C1 | C24H16ClF3N2O3S
reactant | 1-hydoxybenzotriazole | 140 mmol, 18.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 140 mmol, 26.7 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-aminopropionic acid methyl ester hydrochloride | 111 mmol, 15.5 g | Cl.COC(CCN)=O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-({(4-chlorophenyl)-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester | 60 g | COC(CCNC(C1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)Cl)=O)=O | C28H23ClF3N3O4S
